US05488055
A mixture of N-(1-ethylpyrazol-5-yl)-5-(methylthio) anthranilic acid (4.5 g) and POCl3 (20 mL) was refluxed overnight. The reaction mixture was poured into water, then ice was added. The mixture was extracted with CH2Cl2 and then the CH2Cl2 layer was evaporated. The residue was purified by column chromatography on silica gel eluting with 50% ethyl acetate/hexane to afford 2.4 g of 1-ethyl-4-chloro-6-(methylthio)-1H-pyrazolo[3,4-b]quinoline, m.p. 120°-121° C.

reactant | N-(1-ethylpyrazol-5-yl)-5-(methylthio) anthranilic acid | 4.5 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)SC | C13H15N3O2S
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 1-ethyl-4-chloro-6-(methylthio)-1H-pyrazolo[3,4-b]quinoline | 2.4 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)SC | C13H12ClN3S
